Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[O:1]([C:2]([C@@:3]1([C:6](=[O:7])[H:14])[C:4]([H:11])([H:12])[N:5]1[H:13])([H:9])[H:10])[H:8]>>[O:1]([C:2](/[C:3]([C:4]([C:6](=[O:7])[H:14])([H:11])[H:12])=[N:5]/[H:13])([H:9])[H:10])[H:8],68.0718023591637
[C:1]([O:2][C:3](=[O:4])[C:5]([O:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]1([H:8])([H:9])[O:2][C:3](=[O:4])[C:5]([H:10])([H:11])[O:6]1.[H:7][H:12],83.754673402298
[N:1]([C:2](=[O:3])[C:4]#[C:5][H:8])([H:6])[H:7]>>[N:1]([c:4]1[c:2](=[O:3])[c:5]1[H:8])([H:6])[H:7],62.5156511066181
[C:5](#[N:6])[H:7].[N:3](=[C:4]([H:9])[H:10])[H:8].[O+:1]#[C-:2]>>[O:1]=[C:2]([N:3]([C:4]([C:5]#[N:6])([H:9])[H:10])[H:8])[H:7],30.308620982930798
[C:1](/[N:2]=[C:3](\[N:4]([H:11])[H:12])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1](/[C:3](=[N:2]/[C:5](=[O:6])[N:7]([H:13])[H:14])[N:4]([H:11])[H:12])([H:8])([H:9])[H:10],106.06935800071899
[C:1](/[C:2]([O:3][C:4](=[O:5])[H:12])=[C:6](/[O:7][H:11])[H:13])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][H:11])([C:4](=[O:5])[H:12])[C:6](=[O:7])[H:13])([H:8])([H:9])[H:10],37.63044141264596
[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([H:7])([H:8])([H:9])[H:11].[C:2](=[O:3])([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])[H:10],77.64386764565721
[O:1]([C:2]([C:3]#[C:4][C:5]#[N:6])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:5]1=[N:6][C:4]1=[C:3])([H:8])[H:9])[H:7],104.301232063445
[C:1]([H:8])([H:9])[H:10].[C:2]([O:3][C:4]([C:5]([O:6][C:7]([H:17])([H:18])[H:19])([H:15])[H:16])[H:13])([H:11])([H:12])[H:14]>>[C:1]([C:2]([O:3][C:4]([C:5]([O:6][C:7]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],25.82419978924841
[C:1]([C:2](=[C:3]([H:11])[H:12])[C:7]1([H:15])[C-:4]([H:13])[O+:5]=[C:6]1[H:14])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]12[C:3]([H:11])([H:12])[C@@:4]3([H:13])[O:5][C@:6]1([H:14])[C@@:7]23[H:15])([H:8])([H:9])[H:10],19.194403975947594
[N:1]([C@@:2]([C:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:11])[H:12])([C:6]#[N:7])[H:10])([H:8])[H:9]>>[N:1]([C:6]1=[N:7][C@@:2]1([C:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:11])[H:12])[H:10])([H:8])[H:9],77.1594559833547
[N:1]#[C:2][C@@:3]1([H:7])[C:4]([H:8])([H:9])[C:5]([H:10])([H:11])[O:6]1>>[H:8][H:11].[N:1]#[C:2][C@@:3]1([H:7])[C:4]([H:9])=[C:5]([H:10])[O:6]1,107.02529548107
[O:1]([C:2](/[C:3]([C:4]([C:6](=[O:7])[H:14])([H:11])[H:12])=[N:5]/[H:13])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C@@:3]1([C:6](=[O:7])[H:14])[C:4]([H:11])([H:12])[N:5]1[H:13])([H:9])[H:10])[H:8],83.9302788145695
[O:1]=[C:2]([C:3]#[C:4][C:5]#[N:6])[H:7]>>[O+:1](=[C:2]([C:3]#[C-:4])[H:7])[C:5]#[N:6],105.799412207074
[C:1]([O:2][C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:6]#[C:7][H:17])([H:8])([H:9])[H:10]>>[C:1]([O:2][C@@:3]1([C:5]([H:14])([H:15])[H:16])[C@@:4]2([H:13])[C:6]1=[C:7]2[H:17])([H:8])([H:9])[H:10].[H:11][H:12],109.990303851695
[C:1]([C:2]([C:3]([O:4][C:5]([C:6]([H:16])([H:17])[H:18])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C-:3](=[O+:4][C:5]([C:6]([H:16])([H:17])[H:18])([H:14])[H:15])[H:12].[C:1]([C:2]([H:10])([H:11])[H:13])([H:7])([H:8])[H:9],72.01505279472659
[C:1]([C@@:2]([C:3]([C:4]#[N:5])([H:12])[H:13])([C:6]#[C:7][H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[C:6]=[C:7]([C:3]([C:4]#[N:5])([H:12])[H:13])[H:14])[H:11])([H:8])([H:9])[H:10],61.626672434853496
[C:1]([N:2](/[C:3](=[N:4]\[H:11])[C:5](=[O:6])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1](=[N:2]/[C:3](=[N:4]\[H:11])[C:5](=[O:6])[H:12])([H:7])[H:8].[H:9][H:10],105.595980788369
[O:1]([C:2]([C:3]([C:4](=[O:5])[C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8]>>[C-:4]#[O+:5].[C:2](=[C:3]([H:11])[H:12])([H:9])[H:10].[C:6](=[O:7])([H:13])[H:14].[O:1]([H:8])[H:15],55.0281251360795
[O-:1][O:6][C:5](=[O+:4][C:3]#[C:2][H:7])[H:8]>>[O:1]=[C:2]([C:3](=[O:4])[C:5](=[O:6])[H:8])[H:7],35.67198254195799
[C:1]([C:2]([N:3]([C:4](=[O:5])[C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](/[C:2](=[N:3]/[C:4](=[O:5])[C:6]([H:13])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9].[H:11][H:12],95.5992013167833
[N:1]1([H:8])[C-:2]=[O+:3][C:4]([H:10])([H:11])[C:5]([H:12])([H:13])/[C:6]1=[N:7]/[H:9]>>[N:1](=[C:2](/[O:3][C:4]([C:5]([C:6]#[N:7])([H:12])[H:13])([H:10])[H:11])[H:9])\[H:8],70.63649644681051
[N:1]([C:2](=[O:3])[C:4](=[O:5])[N:6]([H:9])[H:10])([H:7])[H:8]>>[C:4](=[O:5])=[N:6][H:9].[N:1]([C:2](=[O:3])[H:10])([H:7])[H:8],79.1637076613361
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]#[C:6][H:14])[H:13])([H:7])([H:8])[H:9]>>[C:1](/[C:2](=[C:3](\[C:4](=[C:5]=[C:6]([H:11])[H:14])[H:13])[H:12])[H:10])([H:7])([H:8])[H:9],83.5590061469924
[C-:4]#[O+:5].[N-:1]([C+:2]([O-:3])[C+:6]([O:7][H:9])[H:10])[H:8]>>[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6](=[O:7])[H:10])\[H:8],0.0824293669208096
[C:1]([O:2][C:3]([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C-:4](=[N+:5]([C:6](=[O:7])[H:16])[H:15])[H:13].[C:1]([O:2][C:3]([H:11])([H:12])[H:14])([H:8])([H:9])[H:10],91.69281419823851
